US09403798B2
[3-(Trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate
To an N,N-dimethylformamide solution (2 mL) of 3-(trifluoromethyl)-1H-pyrazole (100 mg, 0.73 mmol), sodium hydride (35.3 mg, 0.88 mmol, purity 55%) was added at room temperature and the resultant solution was stirred for 1 hour. To the reaction solution, paraformaldehyde (26.4 mg, 0.88 mmol) was added and the resultant mixture was stirred for 1 day. Subsequently, triethylamine (204 μL, 1.46 mmol) and p-toluenesulfonyl chloride (230 mg, 1.21 mmol) were added at 0° C. to the reaction solution and the resultant mixture was stirred for 40 minutes. After completion of the reaction, water was added to the reaction solution and extraction with ethyl acetate from the resultant mixture was performed. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain the title compound (181 mg, yield 78%).

reactant | 3-(trifluoromethyl)-1H-pyrazole | 0.73 mmol, 100 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | sodium hydride | 0.88 mmol, 35.3 mg | [H-].[Na+]
reactant | paraformaldehyde | 0.88 mmol, 26.4 mg | C=O | CH2O
reactant | triethylamine | 1.46 mmol, 204 μL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1.21 mmol, 230 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [3-(Trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate | 181 mg, yield 78% | CC1=CC=C(C=C1)S(=O)(=O)OCN1N=C(C=C1)C(F)(F)F | C12H11F3N2O3S
